US07247625B2
E. 6-[(3-chlorophenyl)amino]-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one
To a solution of 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one (0.13 g, 0.53 mmol) and 3-chlorophenylboronic acid (0.42 g, 2.66 mmol) in methylene chloride (5 mL) was added triethylamine (0.4 mL, 2.87 mmol), and copper (II) acetate (0.19 g, 1.06 mmol) and stirred at room temperature for 2 days. The reaction was partitioned between ammonium chloride solution (sat.) and methylene chloride. The organic layer was washed with sodium bicarbonate solution (sat.), dried over magnesium sulfate, and concentrated. Flash silica gel column separation with 25% ethyl acetate/hexane followed by trituration with an ether/methylene chloride/hexane mixture gave the title compound as a white solid (0.08 g, 43%). 1H NMR (DMSO-d6): δ 8.32 (s, 1H), 7.21 (t, J=8.0 Hz, 1H), 7.13 (dd, J=8.6, 2.3 Hz, 1H), 7.05 (d, J=8.7 Hz, 1H), 6.91 (m, 2H), 6.87 (dd, J=7.6, 1.4 Hz, 1H), 6.77 (d, J=7.8 Hz, 1H), 3.27 (s, 3H), 1.97 (m, 4H), 0.82 (t, J=7.3 Hz, 6H). MS (ESI) m/z 345/347 ([M+H]+); MS (ESI) m/z 343/345 ([M−H]−); Anal. calcd for C19H21ClN2O2: C, 66.18; H, 6.14; N, 8.12. Found: C, 65.70; H, 6.01; N, 7.90.

reactant | 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 0.53 mmol, 0.13 g | NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1 | C13H18N2O2
reactant | 3-chlorophenylboronic acid | 2.66 mmol, 0.42 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | triethylamine | 2.87 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 1.06 mmol, 0.19 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 6-[(3-chlorophenyl)amino]-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 0.08 g, 43% | ClC=1C=C(C=CC1)NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1 | C19H21ClN2O2
